US07763702B2
4-methylphenol (3.73 g, 0.035 mol) is dissolved in 10 mL THF and added dropwise to a suspension of sodium hydride (0.83 g, 0.035 mol) in 60 mL THF to produce sodium 4-methyl phenoxide. HOC6H4SO2NNaSO2CF3 (4.06 g, 0.012 mol) is dissolved in 50 mL THF and added dropwise to a suspension of sodium hydride (0.30 g, 0.012 mol) and tetra(n-butyl)ammonium bromide (0.4 g) in 50 mL THF and stirred for 16 hours to produce a sodium phenoxide solution of the sulfonimide NaOC6H4SO2NNaSO2CF3.

reactant | 4-methylphenol | 0.035 mol, 3.73 g | CC1=CC=C(C=C1)O | C7H8O
reactant | sodium hydride | 0.035 mol, 0.83 g | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | sodium 4-methyl phenoxide | CC1=CC=C([O-])C=C1.[Na+] | InChI=1S/C7H8O.Na/c1-6-2-4-7(8)5-3-6;/h2-5,8H,1H3;/q;+1/p-1
